US04558060
3-Methyl-6-(2-[4-(2-methoxyphenyl)-piperazin-1-yl]-ethyl)-benzoxazolinone
By following the procedure indicated in Example 1, but starting from 5.12 g of 3-methyl-6-(2-bromoethyl)-benzoxazolinone and 4.82 g of 1-(2-methoxyphenyl)-piperazine, 4.78 g of the title product having a melting point of 137°-137.5° C. were obtained after crystallisation from cyclohexane.

reactant | 3-methyl-6-(2-bromoethyl)-benzoxazolinone | 5.12 g | CN1C(OC2=C1C=CC(=C2)CCBr)=O | C10H10BrNO2
reactant | 1-(2-methoxyphenyl)-piperazine | 4.82 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 3-Methyl-6-(2-[4-(2-methoxyphenyl)-piperazin-1-yl]-ethyl)-benzoxazolinone | 4.78 g | CN1C(OC2=C1C=CC(=C2)CCN2CCN(CC2)C2=C(C=CC=C2)OC)=O | C21H25N3O3
